US09376380B2
N,N′-((4-(dimethylamino)phenyl)methylene)bis(2-phenylacetamide) (1).
To a suspension of 4-(dimethylamino)benzaldehyde (149 mg, 1 mmol) and 2-phenylacetamide (270 mg, 2 mmol) in 2 mL anhydrous DCE, TMSCl (216 mg, 2 mmol) was added. The mixture was heated at 70° C. for 12 h, then cooled to room temperature and the crude product precipitated from the solution. The crude product was recrystallized with methanol and hexane to give the final product (140 mg, 35%). 1H NMR (400 MHz, DMSO-d6) δ 8.89 (d, J=8.0 Hz, 2H), 7.59 (s, 2H), 7.41 (d, J=8.8 Hz, 2H), 7.21-7.32 (m, 10H), 6.54 (t, J=8.0 Hz, 1H), 3.52 (dd, J=14.0, 15.6 Hz, 4H), 3.06 (s, 6H).

reactant | 4-(dimethylamino)benzaldehyde | 1 mmol, 149 mg | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
reactant | 2-phenylacetamide | 2 mmol, 270 mg | C1(=CC=CC=C1)CC(=O)N | C8H9NO
reactant | TMSCl | 2 mmol, 216 mg | C[Si](C)(C)Cl | C3H9ClSi
solvent | DCE | 2 mL | ClCCCl | C2H4Cl2
product | N,N′-((4-(dimethylamino)phenyl)methylene)bis(2-phenylacetamide) | 140 mg, 35% | CN(C1=CC=C(C=C1)C(NC(CC1=CC=CC=C1)=O)NC(CC1=CC=CC=C1)=O)C | C25H27N3O2
